US08383619B2
A mixture of methyl 2,4-dihydroxy-5-isopropylbenzoate (420 mg, 2.0 mmol) and anhydrous potassium carbonate (331 mg, 2.4 mmol) in acetonitrile (10 ml) was treated with dimethyl sulphate (0.2 ml, 2.1 mmol) and the mixture was stirred at room temperature for 16 hours. The solvent was removed in vacuo and the residue acidified by the addition of 2M hydrochloric acid (10 ml). The solid material was collected by suction filtration, rinsed with water (2×10 ml) and sucked dry under reduced pressure to afford methyl 2-hydroxy-5-isopropyl-4-methoxybenzoate (440 mg, 98%) as a colourless solid. 1H NMR (DMSO-d6) 10.70 (1H, br s), 7.54 (1H, s), 6.53 (1H, s), 3.87 (3H, s), 3.84 (3H, s), 3.12 (1H, m), 1.13 (6H, d). MS: [M+H]+ 225.

reactant | methyl 2,4-dihydroxy-5-isopropylbenzoate | 2.0 mmol, 420 mg | OC1=C(C(=O)OC)C=C(C(=C1)O)C(C)C | C11H14O4
reactant | potassium carbonate | 2.4 mmol, 331 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 2.1 mmol, 0.2 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 2-hydroxy-5-isopropyl-4-methoxybenzoate | 440 mg, 98% | OC1=C(C(=O)OC)C=C(C(=C1)OC)C(C)C | C12H16O4
